US07157465B2
Potassium carbonate (1.1 g, 8 mmol) and 3-chloromethylpyridine hydrochloride (660 mg, 5 mmol) were added to a DMF solution (30 ml) comprising 2-chloroadenine (520 mg, 3 mmol), and the resultant was stirred while heating at 80° C. for 3 hours. The reaction solution was concentrated under reduced pressure, water was added thereto, and the precipitated solid was collected by filtration. Thus, 2-chloro-9-(3-pyridylmethyl)adenine was obtained (yield: 759 mg). Sodium (750 mg, 30 mmol) was added to butanol (50 ml), and the temperature of the mixture was raised to 90° C. to completely dissolve sodium therein. Subsequently, 2-chloro-9-(3-pyridylmethyl)adenine (430 mg, 1.5 mmol) was added thereto, and the resultant was heated under reflux for 2 hours. The solvent was concentrated under reduced pressure, water was added to the residue, and concentrated hydrochloric acid was added dropwise under ice cooling to neutralize the solution. Liquid separation was carried out with the addition of methylene chloride, and the organic layer was concentrated under reduced pressure. Acetic acid (30 ml) was added to the residue to dissolve it, bromine (660 mg, 5.5 mmol) was added thereto, and the resultant was allowed to react at room temperature all day and night. The reaction solution was removed by distillation under reduced pressure, and the residue was purified by silica gel column chromatography (methylene chloride:methanol=10:1). Thus, 310 mg of 8-bromo-2-butoxy-9-(3-pyridylmethyl)adenine was obtained. Subsequently, the title compound was obtained in the same manner as in Reference Example 3 and Example 1.

reactant | Sodium | 30 mmol, 750 mg | [Na] | Na
reactant | 2-chloro-9-(3-pyridylmethyl)adenine | 1.5 mmol, 430 mg | ClC1=NC(=C2N=CN(C2=N1)CC=1C=NC=CC1)N | C11H9ClN6
reactant | bromine | 5.5 mmol, 660 mg | BrBr | Br2
reactant | butanol | 50 ml | C(CCC)O | C4H10O
product | 8-bromo-2-butoxy-9-(3-pyridylmethyl)adenine | 310 mg | BrC=1N(C2=NC(=NC(=C2N1)N)OCCCC)CC=1C=NC=CC1 | C15H17BrN6O
